US07056917B2
(K) tert-Butyl (E)-3-[8-[2-(4-cyclobutyl-1,3-thiazol-2-yl)ethyl]-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate
tert-Butyl (E)-3-[8-[2-(4-cyclobutyl-1,3-thiazol-2-yl)ethyl]-2-(3-formyloxy-piperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate (95 mg, 0.168 mmol) dissolved in methanol (4 ml) was added with sodium methoxide (4 mg, 0.074 mmol) under ice cooling and stirred for 45 minutes under ice cooling. Then the reaction solution was further added with sodium methoxide (4 mg), and after 5 minutes, further added with sodium methoxide (10 mg). After the reaction solution was stirred for 15 minutes, the reaction was stopped with saturated brine and added with chloroform for extraction. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure, and the residue was purified by thin layer silica gel chromatography (chloroform:methanol=20:1) to obtain 76 mg (84%) of the title compound as yellow crystals in a mixture with triphenylphosphine oxide.

reactant | tert-Butyl (E)-3-[8-[2-(4-cyclobutyl-1,3-thiazol-2-yl)ethyl]-2-(3-formyloxy-piperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate | 0.168 mmol, 95 mg | C1(CCC1)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CC(CCC2)OC=O)/C=C/C(=O)OC(C)(C)C)=O)C=C1 | C30H36N4O5S
reactant | sodium methoxide | 0.074 mmol, 4 mg | C[O-].[Na+]
reactant | sodium methoxide | 4 mg | C[O-].[Na+]
reactant | sodium methoxide | 10 mg | C[O-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 4 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | tert-Butyl (E)-3-[8-[2-(4-cyclobutyl-1,3-thiazol-2-yl)ethyl]-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate | 76 mg, 84% | C1(CCC1)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CC(CCC2)O)/C=C/C(=O)OC(C)(C)C)=O)C=C1 | C29H36N4O4S
